US07767677B2
A mixture of 5-bromopyridine-2,3-diamine (0.188 g, 1.000 mmol) and 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (0.380 g, 1.000 mmol) in POCl3 (7 mL) was heated to reflux for 24 hours. The solvent was evaporated in vacuo, and the dark residue was neutralized with ice-cold NaOH solution. The mixture was extracted with ethyl acetate. The organic layer was separated, dried over MgSO4 and filtered through the short pad of silica gel. The filtrate was concentrated, ether was added. After cooling to 10-15° C. the white precipitation started to form. This was filtered off and dried in vacuo to yield {4-[6-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)pyridazin-3-yl]piperazin-1-yl}-(2-trifluoromethylphenyl)methanone in 74% yield (0.394 g, 0.810 mmol). 1H NMR (300 MHz, CDCl3) δ 13.64 (br., s, 1H), 8.40 (s, 1H), 8.17 (d, J=9.6 Hz, 1H), 8.03 (br, s, 1H), 7.82 (d, J=7.8 Hz, 1H), 7.76 (t, J=7.4 Hz, 1H), 7.65 (t, J=7.5 Hz, 1H), 7.43 (d, J=9.6 Hz, 1H), 3.90-3.20 (m, 8H13C NMR (75 MHz, CDCl3) δ 166.8, 159.9, 152.8, 144.9, 143.5, 135.0, 133.4, 130.1, 128.0, 127.1, 127.0, 126.9, 126.0, 125.9, 125.6, 122.4, 113.8, 46.4, 44.5, 44.3, 41.2. MS (ES+) m/z 532, 534 (M+1).

reactant | 5-bromopyridine-2,3-diamine | 1.000 mmol, 0.188 g | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid | 1.000 mmol, 0.380 g | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)C(=O)O)C=CC=C1)(F)F | C17H15F3N4O3
solvent | POCl3 | 7 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | {4-[6-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)pyridazin-3-yl]piperazin-1-yl}-(2-trifluoromethylphenyl)methanone | 74% yield | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(N=N2)N2CCN(CC2)C(=O)C2=C(C=CC=C2)C(F)(F)F | C22H17BrF3N7O
